US08217032B2
6-(2,4-difluoro-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol
Dissolve [2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (3.3 g, 6.8 mmol) in dry THF (100 mL) and stir under nitrogen. Slowly add lithium aluminum hydride (0.9 g, 24 mmol) and heat to reflux. Cool to room temperature after 30 minutes and quench excess LiAlH4 with slow addition of ice. Dilute with water and adjust the pH to 7 with 1M HCl. Extract five times with 20% IPA in chloroform. Dry the combined organic layers with sodium sulfate, filter and concentrate in vacuo to yield 3.4 g (100%) of the title compound.

reactant | [2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 6.8 mmol, 3.3 g | FC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
reactant | lithium aluminum hydride | 24 mmol, 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-(2,4-difluoro-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol | 3.4 g, 100% | FC1=C(C=CC(=C1)F)C=1C(=C2C=CC(=CC2=CC1)O)C(C1=CC=C(C=C1)OCCN1CCCCC1)O | C30H29F2NO3
